US08053454B2
To a solution of 2-piperazin-1-yl-phenol (2 g, 11.22 mmol) in 50 mL of EtOH, formic acid (224.43 mmol, 20 eq.) and formaldehyde (62.84 mmol, 5.6 eq.) were added. The reaction was stirred and refluxed at 90° C. for 4 hours. The crude reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was dissolved into ethyl acetate and extracted with an aqueous solution of 0.1M NaOH and then an aqueous solution of saturated sodium bicarbonate. The organic layer was collected, dried with Mg2SO4, filtered, and concentrated down to afford 1.52 g of phenol 2-(4-methylpiperazin-1-yl)phenol. MS (EI) for C11H16N2O: 193 (M+H). Step 2: Methyl 2-(2-(4-methylpiperazin-1-yl)phenoxy)acetate: To a solution of 2-(4-methylpiperazin-1-yl)phenol (200 mg, 1.04 mmol) in 5 mL THF were added methyl bromoacetate (1.30 mmol, 1.25 eq.) and sodium bis(trimethylsilyl)amide (2M in THF, 1.14 mmol, 1.10 eq.). The reaction was stirred at room temperature for 1.5 hours and slowly became heterogeneous. The solid from the crude reaction mixture was filtered off and discarded. The solvent was removed in vacuo to afford 238.7 mg of the crude product that was determined to be contaminated with a small amount of the phenol starting material. This material was used without further characterization. MS (EI) for C14H20N2O3: 265 (M+H). Step 3: 2-(2-(4-Methylpiperazin-1-yl)phenoxy)acetic acid: To a solution of crude methyl 2-(2-(4-methylpiperazin-1-yl)phenoxy)acetate (238.7 mg, 0.90 mmol) in 20 mL of MeOH, 2.5 mL of 1 M NaOH was added. The reaction was stirred at room temperature overnight. The crude reaction mixture was diluted with water and acidified by 1M HCl to a pH of 4. The solvent was removed in vacuo and the residue was purified by C-18 reverse phase HPLC on a Waters Corp FractionLynx System using a binary eluant gradient of water/acetonitrile each containing 0.1% formic acid to afford 135 mg of 2-(2-(4-methylpiperazin-1-yl)phenoxy)acetic acid. MS (EI) for C13H18N2O3: 251 (M+H). Step 4: 2-(2-(4-Methylpiperazin-1-yl)phenoxy)acetyl chloride: To a solution of the acid 2-(2-(4-methylpiperazin-1-yl)phenoxy)acetic acid (135 mg, 0.54 mmol) in 5.4 mL of DCM were added 30 μL of DMF and oxalyl chloride (1.08 mmol, 2 eq.). The reaction was stirred at room temperature for 3 hours. The crude reaction mixture was concentrated down in vacuo to afford 130 mg of 2-(2-(4-Methylpiperazin-1-yl)phenoxy)acetyl chloride. This material was used without further purification. MS (EI) for C13H17ClN2O2: 269 (M+H). Step 5: N-[5-Chloro-2-(1H-tetrazol-5-yl)phenyl]-2-{[2-(4-methylpiperazin-1-yl)phenyl]oxy}acetamide: To a solution of N-[5-chloro-2-(1H-tetrazol-5-yl)phenyl]benzamide (47.5 mg, 0.24 mmol) in 1.5 mL of DCM was added 130 μL of DIPEA (0.72 mmol, 3 eq.), and 1 mL of a 0.48M solution of 2-(2-(4-methylpiperazin-1-yl)phenoxy)acetyl chloride (0.48 mmol, 2 eq.). The reaction was stirred at room temperature overnight. The crude reaction mixture was concentrated in vacuo. The crude material was redissolved in methanol and purified by reverse phase C18 preparative HPLC (water/acetonitrile containing 0.1% formic acid 30%-100% gradient) to yield 70 mg of the final product. 1H-NMR (400 MHz, d6-DMSO): δ 11.65 (s, 1H), 9.50 (s, br, 1H), 8.65 (d, 1H), 8.04 (d, 1H), 7.47 (dd, 1H), 7.09-7.00 (m, 4H), 4.82 (s, 2H), 3.76 (d, 4H), 3.46 (d, 4H), 2.82 (s, 3H). MS (EI) C20H22ClN7O2: 428 (M+H). General Library Procedure

reactant | 2-piperazin-1-yl-phenol | 11.22 mmol, 2 g | N1(CCNCC1)C1=C(C=CC=C1)O | C10H14N2O
reactant | formic acid | 224.43 mmol, 20 eq. | C(=O)O | CH2O2
reactant | formaldehyde | 62.84 mmol, 5.6 eq. | C=O | CH2O
solvent | EtOH | 50 mL | CCO | C2H6O
product | phenol 2-(4-methylpiperazin-1-yl)phenol | 1.52 g | CN1CCN(CC1)C1=C(C=CC=C1)O.C1(=CC=CC=C1)O | InChI=1S/C11H16N2O.C6H6O/c1-12-6-8-13(9-7-12)10-4-2-3-5-11(10)14;7-6-4-2-1-3-5-6/h2-5,14H,6-9H2,1H3;1-5,7H
